
// Comparator Characterization Testbench
// Transient offset
simulator lang=spectre
global 0

// include model card
include "dummy_model_card_path" section=dummy_corner_name

// define w/l
parameters w1 = {w1}  l1 = {l1}  w2 = {w2}  l2 = {l2}  w3 = {w3} l3 = {l3}    w4 = {w4}  l4 = {l4}	   w5 = {w5}  l5 = {l5} w6 = {w6}  l6 = {l6}   

// define bias current
parameters ib=2u

// define vref
parameters vref=1.65

// Include the circuit
include    "/home/shunqidai/Sizing/SizingDemoLinuxSpectre_integer_stdcell/smic011/ckt_netlist/comparator1.scs"

// the power supply 1.8 V and current bias
vdd    (dd  0)   vsource  dc=vdd     type=dc
ibias  (dd ibias) isource  dc=ib    type=dc

// the input signal for dc and tran simulation
vin    (inn 0)      vsource  dc=vref    type=dc
vip    (inp 0)     vsource  type=pwl	wave=[0 0 0.1u 0 0.101u 3.3 3u 3.3 3.001u 0 6u 0]

// the circuit
Xcomp (dd 0 inp inn out ibias)  comp
clp   (out 0) 	capacitor  c=cload


// Sprctre Analyses and Output Options
// Output Options
simulatorOptions options 
+    reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 
+    tnom=27 scalem=1.0 scale=1.0e-6 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 
+    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" 
+    checklimitdest=psf 

// Analyses
old_data_output_filename tran start=0.0 stop=6.0e-6 annotate=status 
saveOptions options save=allpub subcktprobelvl=2 
// minstep=1e-13 maxstep=1e-10

// end of file
